US04088767
To a solution of 2.5 g of 4-(3',5'-dichlorophenyl) urazole and 1 g of triethylamine in 10 ml of N,N-dimethylformamide was added dropwise 1.1 g of ethylchloroformate with agitation. The reaction and agitation were continued at room temperature for one hour. The reaction mass was mixed with water to precipitate crystals which were filtered and recrystallized from acetone-ethanol to obtain 2.3 g of 1-ethoxycarbonyl-4-(3',5'-dichlorophenyl) urazole, which constituted a yield of 72%.

reactant | 4-(3',5'-dichlorophenyl) urazole | 2.5 g | ClC=1C=C(C=C(C1)Cl)N1C(NNC1=O)=O | C8H5Cl2N3O2
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | ethylchloroformate | 1.1 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-ethoxycarbonyl-4-(3',5'-dichlorophenyl) urazole | 2.3 g, yield of 72% | C(C)OC(=O)N1NC(=O)N(C1=O)C1=CC(=CC(=C1)Cl)Cl | C11H9Cl2N3O4
